US04366320
a. 4-(2',4',6'-Trifluorophenyl)-carbethoxysemicarbazide
A toluene solution of 2,4,6-trifluoroaniline is reacted with 2-carbethoxyhydrazinecarbonyl chloride as described above in Example 1b, mp 177°-178° (ethyl acetate/toluene).

reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | 2,4,6-trifluoroaniline | FC1=C(N)C(=CC(=C1)F)F | C6H4F3N
reactant | 2-carbethoxyhydrazinecarbonyl chloride | C(=O)(OCC)NNC(=O)Cl | C4H7ClN2O3
solvent | ethyl acetate toluene | C(C)(=O)OCC.C1(=CC=CC=C1)C
product | 4-(2',4',6'-Trifluorophenyl)-carbethoxysemicarbazide | FC1=C(C(=CC(=C1)F)F)NC(NNC(=O)OCC)=O | C10H10F3N3O3
